US04729994
c. (S)-2-[[2-(2,3-Dichlorophenyl)ethyl]amino]-1-propanol Hydrogenchloride
To a solution of 13.0 g (0.074 mole) of crude 2,3-dichlorobenzeneacetaldehyde in 50 ml of MeOH was added 5.7 ml (0.074 mole) of (S)-2-amino-1-propanol. The reaction was placed under an atmosphere of argon and 3.6 g (0.058 mole) of sodium cyanoborohydride was added. After stirring for 2.5 hr, the reaction was made acidic by adding ethereal hydrogen chloride. After stirring of 30 min enough 3N sodium hydroxide was added to make the reaction basic. The reaction mixture was extracted with ether and the ether layer was washed with water, brine and dried (K2CO3). Evaporation of the solvent in vacuo gave a yellow oil. The oil was treated with ethereal hydrogen chloride and the solid was collected. The solid was recrystallized from 2-propanol to give 5.10 g of the title compound (28% yield), mp 148°-151° C.

reactant | 2,3-dichlorobenzeneacetaldehyde | 0.074 mole, 13.0 g | ClC1=C(C=CC=C1Cl)CC=O | C8H6Cl2O
reactant | (S)-2-amino-1-propanol | 0.074 mole, 5.7 ml | N[C@H](CO)C | C3H9NO
reactant | sodium cyanoborohydride | 0.058 mole, 3.6 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | (S)-2-[[2-(2,3-Dichlorophenyl)ethyl]amino]-1-propanol Hydrogenchloride | 5.10 g, 28% yield | Cl.ClC1=C(C=CC=C1Cl)CCN[C@H](CO)C | InChI=1S/C11H15Cl2NO.ClH/c1-8(7-15)14-6-5-9-3-2-4-10(12)11(9)13;/h2-4,8,14-15H,5-7H2,1H3;1H/t8-;/m0./s1
